Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
egg
 
Attending: ___.
 
Chief Complaint:
Right Foot pain
 
Major Surgical or Invasive Procedure:
I&D of R lower extremity fluid collection on ___.

 
History of Present Illness:
___ is a ___ year old man w/PMH HIV, Hep C, former IV
drug use, and recurrent abscesses presenting with right foot
pain, erythema, and swelling. Last ___, patient noticed a
small abscess on the dorsum of his R foot. He does not recall 
any
trauma to that area. Since then, his foot has become 
increasingly
swollen, erythematous, and painful. He has not been able to get
out of bed for the last 2 days because of the pain. He started
taking Bactrim at home which he had from prior episodes of
abscesses which improved the redness and swelling, but not the
pain.

In the ED:
- Initial vital signs were notable for: T 97.9 HR 100 RR 16 Pox
99% RA
- Exam notable for: approximately 2 cm ulceration to the dorsal
aspect of the right foot, with significant surrounding erythema
and edema. The area is markedly tender to palpation. There is no
crepitus. DP and ___ pulses intact. There is an additional small
healing ulceration to the medial right ankle. In addition,
patient has ulceration to the right antecubital fossa, without
surrounding fluctuance, erythema, or tenderness. He has 
extensive
scarring and healing nodules to bilateral upper extremities.
- Labs were notable for:
WBC 6.8 Hgb 14.6 Plt 232 SCr 1.1 Lactate 2.1
- Studies performed include:
X-ray R foot
1. Diffuse soft tissue swelling without soft tissue gas.  No
radiographic evidence for osteomyelitis. 
2. Linear 5 mm radiopaque density plantar to the calcaneocuboid
joint which could reflect dystrophic calcification or a
radiopaque foreign body and clinical correlation is needed. 
Blood cultures
- Patient was given:
Vancomycin 1000mg IV
- Consults:
Podiatry - exam consistent with cellulitis, wound is partial
thickness and does not probe deep, no purulent exudate, 
recommend
no surgical intervention, IV antibiotics, can consider MRI/US of
R foot to assess for deep fluid collection if not improving on 
IV
antibiotics.

Vitals on transfer: T 97.4 HR 93 BP 148/72 Pox 99% RA
Upon arrival to the floor, patient is without complaint. His 
pain
has significantly improved and he believes the swelling in his R
foot has improved as well. Denies fevers, chills, nausea,
vomiting, chest pain, shortness of breath, diarrhea, or dysuria.

 
Past Medical History:
- Hepatitis C
- HIV
- PTSD
- Anxiety/depression
- Amphetamine abuse
- Sinus tachycardia
- Herpes
- Migraine headaches
- Syphilis
- Streptococcal pharyngitis
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION EXAM:
================
VITALS: 24 HR Data (last updated ___ @ ___)
    Temp: 98.6 (Tm 98.6), BP: 131/78, HR: 84, RR: 18, O2 sat:
94%, O2 delivery: Ra, Wt: 191.9 lb/87.05 kg  
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
EXTREMITIES: R foot with 2 x 1.5cm ulcerated area with healing
scab, surrounding erythema not extended from prior marking, no
purulent exudate noted. Small circular lesion on medial 
malleolus
of R leg.
SKIN: Warm. Multiple ulcerations in different stages of healing,
some scabbed over on bilateral upper extremities, multiple
pustular lesions on R hand.
NEUROLOGIC: Face symmetric, moving all extremities 
spontaneously,
AOx3.

DISCHARGE EXAM:
================
98.9 154 / 53 81 18 94 Ra  
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
EXTREMITIES: R foot with 2 x 1.5cm ulcerated area with healing
scab, surrounding erythema not extended from prior marking, no
purulent exudate noted. Small circular lesion on medial 
malleolus
of R leg.
SKIN: Warm. Multiple ulcerations in different stages of healing,
some scabbed over on bilateral upper extremities, multiple
pustular lesions on R hand.
NEUROLOGIC: Face symmetric, moving all extremities 
spontaneously,
AOx3.

 
Pertinent Results:
ADMISSION LABS:
================
___ 12:11PM BLOOD WBC-6.8 RBC-5.11 Hgb-14.6 Hct-44.8 MCV-88 
MCH-28.6 MCHC-32.6 RDW-13.4 RDWSD-43.4 Plt ___
___ 12:11PM BLOOD Neuts-64.0 ___ Monos-9.3 Eos-1.3 
Baso-0.6 Im ___ AbsNeut-4.36 AbsLymp-1.66 AbsMono-0.63 
AbsEos-0.09 AbsBaso-0.04
___ 12:11PM BLOOD Glucose-100 UreaN-16 Creat-1.1 Na-141 
K-4.8 Cl-105 HCO3-23 AnGap-13
___ 07:00AM BLOOD Calcium-8.8 Phos-3.5 Mg-2.2

DISCHARGE LABS:
=================
___ 09:30AM BLOOD WBC-5.9 RBC-5.74 Hgb-16.3 Hct-52.6* 
MCV-92 MCH-28.4 MCHC-31.0* RDW-13.9 RDWSD-45.9 Plt ___
___ 09:35AM BLOOD Glucose-108* UreaN-14 Creat-0.8 Na-140 
K-4.9 Cl-105 HCO3-21* AnGap-14
___ 11:45AM BLOOD K-4.5
 
Brief Hospital Course:
___ is a ___ year old man w/PMH HIV, Hep C treated 
with
harvoni, IV drug use (reports use within the last month), and 
recurrent abscesses of upper extremities presenting with right 
foot pain, erythema, and swelling consistent with cellulitis.

ACUTE ISSUES:
=============
# Right foot cellulitis
Presents with pain, erythema, and swelling concerning for 
cellulitis. Underwent MRI on ___ of R lower extremity with 
fluid collection but no evidence of osteymyelitis. He underwent 
I&D on ___ with Podiatry with purulent fluid removed. He is 
without systemic symptoms and other concerning laboratory 
abnormalities. Of note has had MSSA infections of the upper 
extremities in the past, MRSA swab negative. Blood cultures with 
no growth to date. He was treated with Vancomycin (___) 
and Augmentin (___). He can continue dressing changes 
with betadine and can follow up with podiatry. 

# Recurrent superficial staph infections of bilateral upper 
extremities 
Patient has multiple superficial abscesses in different stages 
of healing, reports that this has been ongoing since ___. Per 
review of ___ records he was seen by dermatology in ___ 
with cultures of prior abscess that have growing MSSA at that 
time. He was treated with course of Mucipurin and PO Doxycycline 
with slight improvement. On presentation he has multiple skin 
lesions on his upper extremities with crusting and open lesions 
at various states of healing. Patient evaluated by dermatology 
and lesions are concerning for self-inflicted trauma (i.e. skin 
popping) although patient denies. His MRSA swab was negative. 
For R forearm open ulcer, will apply mupirocin ointment twice 
daily to ulcer base and santyl ointment daily to crusted border. 
For crusted erosions, please apply santyl ointment daily to all 
crusted areas to help breakdown eschar and promote wound 
healing. Patient should follow up with Dermatology to monitor R 
forearm ulcer for resolution, if no improvement may warrant 
biopsy to rule out neoplastic process and/or tissue culture. 

CHRONIC ISSUES:
===============
# HIV
On ___ had CD4 count of 912 and viral load <20. Takes 
genvoya(elvitegravir, cobicistat, emtricitabine, tenofovir 
alafenamide). Endorses medication compliance. Genvoya not on 
formulary gave Stribild while in house.

# Hepatitis C
Per patient, he has completed treatment with harvoni.

# Anxiety/depression
Continue BuPROPion XL 150 mg PO DAILY and Citalopram 20 mg PO 
DAILY. Patient has previously been in therapy at ___, 
can follow up with psychiatry and therapist as an outpatient. He 
has been having difficulty since the death of his wife 
approximately one week ago. 

#IV drug use
Patient with history of IV drug use, reports last attempt to use 
IV drugs was approximately one month ago. He was seen by social 
work. Please continue to discuss with patient. 

#CODE: Full (presumed)

TRANSITIONAL ISSUES:
=====================
- Please ensure patient completes course of Augmentin (end 
___.
- Please ensure R lower extremity cellulitis improves 
clinically.
- Please monitor bilateral upper extremity wounds and ensure 
patient follows up with dermatology. 
- If no improvement with topical treatment may warrant biopsy to 
rule out neoplastic process and/or tissue culture. 
- Please ensure patient follows up with psychiatry/therapy
- Please continue to discuss IV drug use, he reports he has not 
used for the last month, but things have been difficult since 
the death of his wife.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion XL (Once Daily) 150 mg PO DAILY 
2. Citalopram 20 mg PO DAILY 
3. Genvoya (elviteg-cob-emtri-tenof ALAFEN) ___ mg 
oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever 
RX *acetaminophen 325 mg 2 tablet(s) by mouth Every eight hours 
as needed Disp #*60 Tablet Refills:*0 
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 12 Days 

RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth Twice daily Disp #*19 Tablet Refills:*0 
3.  Collagenase Ointment 1 Appl TP DAILY 
RX *collagenase clostridium histo. [Santyl] 250 unit/gram  Daily 
Refills:*0 
4.  Mupirocin Ointment 2% 1 Appl TP BID apply to lesions on 
bilateral upper extremities 
RX *mupirocin 2 %  Twice daily Refills:*0 
5.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
6.  Citalopram 20 mg PO DAILY  
7.  Genvoya (elviteg-cob-emtri-tenof ALAFEN) ___ mg 
oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: Cellulitis of R foot
Secondary diagnosis: Recurrent superficial staph infections of 
bilateral upper extremities 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.

Why you were here?
-You came to the hospital because you had an infection in your 
foot.

What we did while you were here?
-We had the podiatrists see you. They helped drain the infection 
in your foot.
-We treated you with antibiotics, initially through the IV and 
then with pills.
-We had the skin doctors ___ to help with treatment of the 
infection on your arms.

What you should do when you go home?
-Please take your antibiotics by mouth for a total of 14 days.
-Please follow up with the foot doctors.
-___ follow up with the skin doctors. 

Your ___ Team
 
Followup Instructions:
___